US06852731B2
4-(2-amino-2-oxoethyl)-N-(4-chlorobenzyl)-2-{[[2-(2-furyl)-2-hydroxyethyl](methyl)amino]methyl}-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
Prepared from 1-(2-furyl)-2-(methylamino)ethanol (Preparation 8) and 4-(2-amino-2-oxoethyl)-N-(4-chlorobenzyl)-2-(chloromethyl)-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide by the procedure described for Example 2. Recrystallization from acetonitrile afforded 17 mg of the title compound as a white solid.

reactant | 1-(2-furyl)-2-(methylamino)ethanol | O1C(=CC=C1)C(CNC)O | C7H11NO2
reactant | 4-(2-amino-2-oxoethyl)-N-(4-chlorobenzyl)-2-(chloromethyl)-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | NC(CN1C2=C(C(C(=C1)C(=O)NCC1=CC=C(C=C1)Cl)=O)SC(=C2C)CCl)=O | C19H17Cl2N3O3S
product | 4-(2-amino-2-oxoethyl)-N-(4-chlorobenzyl)-2-{[[2-(2-furyl)-2-hydroxyethyl](methyl)amino]methyl}-3-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 17 mg | NC(CN1C2=C(C(C(=C1)C(=O)NCC1=CC=C(C=C1)Cl)=O)SC(=C2C)CN(C)CC(O)C=2OC=CC2)=O | C26H27ClN4O5S
